US04814332
73.5 g of N,N-dimethylformamide diethyl acetal are added to 20.5 g of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride in 400 ml of dry dimethylformamide. After stirring at 50° for 4 days, the mixture is left to cool. Then, 250 ml of ether are added thereto and the product is removed by filtration and is recrystallized from dry ethanol. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[2-(dimethylamino)vinyl]imidazolium chloride of melting point 265° (decomposition).

reactant | N,N-dimethylformamide diethyl acetal | 73.5 g | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride | 20.5 g | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[2-(dimethylamino)vinyl]imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C=CN(C)C)C=C1)C | InChI=1S/C25H32N7.ClH/c1-28(2)16-15-25-31(26-19-21-7-11-23(12-8-21)29(3)4)17-18-32(25)27-20-22-9-13-24(14-10-22)30(5)6;/h7-20H,1-6H3;1H/q+1;/p-1
